US07795444B2
Preparation of (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)thiazol-4-yl]ethanamine hydrobromide salt (8):
A mixture of (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate, 7, (7.74 g, 20 mmol), and thiophene-2-carbothioic acid amide (3.14 g, 22 mmol) in CH3CN (200 mL) is refluxed for 5 hours. The reaction mixture is cooled to room temperature and diethyl ether (50 mL) is added to the solution. The precipitate which forms is collected by filtration. The solid is dried under vacuum to afford 7.14 g (87% yield) of the desired product. ESI+ MS 332 (M+1).

reactant | (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate | BrCC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O)=O | C15H19BrN2O5
reactant | thiophene-2-carbothioic acid amide | 22 mmol, 3.14 g | S1C(=CC=C1)C(N)=S | C5H5NS2
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | CH3CN | 200 mL | CC#N | C2H3N
product | (S)-2-(4-nitrophenyl)-1-[(thiophene-2-yl)thiazol-4-yl]ethanamine hydrobromide salt | 7.14 g, 87% yield | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(SC1)C=1SC=CC1 | InChI=1S/C15H13N3O2S2.BrH/c16-12(8-10-3-5-11(6-4-10)18(19)20)13-9-22-15(17-13)14-2-1-7-21-14;/h1-7,9,12H,8,16H2;1H/t12-;/m0./s1
